US04789675
To a stirred , ice-cooled suspension of (S)-6,7,8,9-tetrahydro-2-(3-hydroxypropyl)-2H-naphtho[2,3-b][1,4] oxazin-3(4H)-one (1.15 g) in a mixture of dichloromethane (40 ml) and triethylamine (0.45 g), was added dropwise methanesulfonyl chloride (1.01 g). The whole was stirred at 0° C. for 1.5 hour, washed with water and dried over magnesium sulfate. The solvent was distilled off and the residue was purified by column chromatography on silica gel (60 g) with ethyl acetate-hexane (3:2, v/v). The resulting crystals were recrystallized from methanol to yield (S)-6,7,8,9-tetrahydro-2-(3-mesyloxypropyl)-2H-naphto[2,3-b][1,4]oxazin-3(4H)-one as colorless needles (1.19 g, 79.7%), m.p. 153°-154° C. [α]D26 +4.8° (c=0.8, CHCl3).

reactant | (S)-6,7,8,9-tetrahydro-2-(3-hydroxypropyl)-2H-naphtho[2,3-b][1,4] oxazin-3(4H)-one | 1.15 g | OCCC[C@H]1C(NC2=C(O1)C=C1CCCCC1=C2)=O | C15H19NO3
reactant | methanesulfonyl chloride | 1.01 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | triethylamine | 0.45 g | C(C)N(CC)CC | C6H15N
product | (S)-6,7,8,9-tetrahydro-2-(3-mesyloxypropyl)-2H-naphto[2,3-b][1,4]oxazin-3(4H)-one | 1.19 g, 79.7% | S(=O)(=O)(C)OCCC[C@H]1C(NC2=C(O1)C=C1CCCCC1=C2)=O | C16H21NO5S
